US07071201B2
Example 176: Synthesis of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-[1-hydroxy-1-(3-pyridyl)methyl]indoline
3-Bromopyridine (0.44 ml), 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-formylindoline (0.4 g) and diethyl ether employed as the solvent were treated as in Example 93 to give the title compound (0.337 g) as a yellow oil (yield: 68.8%).

reactant | 3-Bromopyridine | 0.44 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-formylindoline | 0.4 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C=O)C=C1 | C22H25FN2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-[1-hydroxy-1-(3-pyridyl)methyl]indoline | 0.337 g, yield: 68.8% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C(C=2C=NC=CC2)O)C=C1 | C27H30FN3O
